US08912169B2
Step 2: Synthesis of (R)-3-(2-(trans-4-(2-aminoethylamino)cyclohexyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
To (R)-3-(2-(trans-4-(2-(tert-butoxycarbonylamino)ethylamino)cyclohexyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid (20 mg) in a flask was added 1 mL 4N HCl in dioxane. The resulting reaction mixture was stirred at RT for 2 hr. The solvent was removed in vacuo and the residue was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 390 (MH)+.

reactant | (R)-3-(2-(trans-4-(2-(tert-butoxycarbonylamino)ethylamino)cyclohexyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | 20 mg | C(C)(C)(C)OC(=O)NCCN[C@@H]1CC[C@H](CC1)CC(=O)N[C@@H]1B(OC2=C(C1)C=CC=C2C(=O)O)O | C24H36BN3O7
reactant | HCl | 4N, 1 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (R)-3-(2-(trans-4-(2-aminoethylamino)cyclohexyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | NCCN[C@@H]1CC[C@H](CC1)CC(=O)N[C@@H]1B(OC2=C(C1)C=CC=C2C(=O)O)O | C19H28BN3O5
